US08080558B2
1d) Preparation of 6,7-dimethoxy-4-(1H-tetrazol-5-yl)quinazoline
Experimental Procedure: 400.0 ml of dimethyl formamide and 20.0 g (0.09 mol) of 4-cyano-6,7-dimethoxy-quinazoline were charged into a 1.0 L 4necked round bottom flask, connected to a mechanical stirrer, thermometer socket and condenser under nitrogen atmosphere. 6.80 g (0.10 mol) of Sodium azide and 5.50 g (0.10 mol) of ammonium chloride were charged at 25-35° C. Stirred the mass for 15-20 min at 25-35° C. Stirred the mass for 15-20 min at 25-35° C. Reaction mass temperature was raised to 110-115° C. Maintained the mass temperature at 110-115° C. for 8-9 hours. Inorganic solid was filtered at 110-115° C. and the filtrate was collected into a conical flask. Cooled the filtrate to 25-30° C. 4000.0 ml of ethyl acetate was charged into a 5.0 L 4necked round bottom flask, connected to a mechanical stirrer, thermometer socket and addition flask. Reaction mass of dimethyl formamide solution was added to ethyl acetate solution under stirring. Maintained the mass temperature at 25-30° C. for 60-90 min. Cooled the mass temperature to 0-5° C. Maintained the mass temperature at 0-5° C. for 150-180 min. Filtered the solid and solid was washed with 100.0 ml of ethyl acetate. Compound was dried at 25-30° C. under vacuum. Obtained 14.20 g (yield is 59.16% by theory) of product Melting range 207.2° C.

reactant | dimethyl formamide | 400.0 ml | CN(C=O)C | C3H7NO
reactant | 4-cyano-6,7-dimethoxy-quinazoline | 0.09 mol, 20.0 g | C(#N)C1=NC=NC2=CC(=C(C=C12)OC)OC | C11H9N3O2
reactant | Sodium azide | 0.10 mol, 6.80 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.10 mol, 5.50 g | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6,7-dimethoxy-4-(1H-tetrazol-5-yl)quinazoline | yield is 59.16% | COC=1C=C2C(=NC=NC2=CC1OC)C1=NN=NN1 | C11H10N6O2
